US05840751
6-(3-Chlorophenyl)-5,6-dihydro-4-hydroxy-2H-pyran-2-one, (±)
The title compound was prepared as described in General Method 1 using 5.0 mL of methyl acetoacetate, 2.0 g of NaH 60% dispersion in oil, 25 mL of 2.0M n-butyl lithium in hexane, 6.5 mL of 3-chlorobenzaldehyde and 150 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p. 122°-124° C.). 1H NMR (CDCl3) δ 2.83 (dd, 1 H), 2.96 (dd, 1 H), 3.60 (dd, 2 H), 5.68 .(dd, 1 H), 7.25-7.42 (m, 4 H).

reactant | methyl acetoacetate | 5.0 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 2.0 g | [H-].[Na+]
reactant | n-butyl lithium | 2.0M, 25 mL | C(CCC)[Li]
reactant | 3-chlorobenzaldehyde | 6.5 mL | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 6-(3-Chlorophenyl)-5,6-dihydro-4-hydroxy-2H-pyran-2-one | ClC=1C=C(C=CC1)C1CC(=CC(O1)=O)O | C11H9ClO3
